US09212348B2
Synthesis of 1-(2-azido-2-methylpropyl)-4-(trifluoromethyl)benzene
26.3 g of 2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-ol was dissolved in 400 mL of methylene chloride, and 25 mL (0.19 mol) of trimethylsilyl azide and 24 mL (0.19 mol) of boron trifluoride diethyl etherate complex were added dropwise under cooling with ice. The reaction mixture was stirred at room temperature for 20 hours. After completion of the reaction, the reaction mixture was washed with saturated aqueous sodium hydrogen carbonate and with saturated aqueous sodium chloride successively, dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give 25.4 g of the desired product.

reactant | 2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-ol | 26.3 g | CC(CC1=CC=C(C=C1)C(F)(F)F)(C)O | C11H13F3O
reactant | trimethylsilyl azide | 0.19 mol, 25 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-azido-2-methylpropyl)-4-(trifluoromethyl)benzene | 25.4 g | N(=[N+]=[N-])C(CC1=CC=C(C=C1)C(F)(F)F)(C)C | C11H12F3N3
